US07060827B2
In a manner similar to the preparation of N2,N4-bis(3,4-ethylenedioxyphenyl)-5-phenyl-2,4-pyrimidinediamine, N2,N4-bis(3,4-ethylenedioxyphenyl)-5-bromo-2,4-pyrimidinediamine and furan-2-boronic acid were reacted to yield N2,N4-bis(3,4-ethylenedioxyphenyl)-5-(2-furanyl)-2,4-pyrimidinediamine. 1H NMR (CD3OD): δ 8.13 (s, 1H), 7.61 (d, 1H, J=1.8 Hz), 7.12 (d, 1H, J=2.4 Hz), 7.08 (d, 1H, J=2.4 Hz), 6.93 (td, 2H, J=2.4 and 8.7 Hz), 6.78 (d, 1H, J=8.7 Hz), 6.68 (d, 1H, J=8.7 Hz), 6.58 (d, 1H, J=2.4 Hz), 6.54 (dd, 1H, J=1.8 and 3.6), 4.24 (s, 4H), 4.20 (bs, 4H); LCMS: ret. time: 15.03 min.; purity: 88%; MS (m/e): 445 (MH+).

reactant | N2,N4-bis(3,4-ethylenedioxyphenyl)-5-phenyl-2,4-pyrimidinediamine | C1OC=2C=C(C=CC2OC1)NC1=NC=C(C(=N1)NC1=CC2=C(C=C1)OCCO2)C2=CC=CC=C2 | C26H22N4O4
reactant | N2,N4-bis(3,4-ethylenedioxyphenyl)-5-bromo-2,4-pyrimidinediamine | C1OC=2C=C(C=CC2OC1)NC1=NC=C(C(=N1)NC1=CC2=C(C=C1)OCCO2)Br | C20H17BrN4O4
reactant | furan-2-boronic acid | O1C(=CC=C1)B(O)O | C4H5BO3
product | N2,N4-bis(3,4-ethylenedioxyphenyl)-5-(2-furanyl)-2,4-pyrimidinediamine | C1OC=2C=C(C=CC2OC1)NC1=NC=C(C(=N1)NC1=CC2=C(C=C1)OCCO2)C=2OC=CC2 | C24H20N4O5
